US04113871
4-(2-Acetamidoethyl)-benzoic acid is reduced, via a mixed anhydride, with sodium borohydride to give 4-(2-acetamidoethyl)-benzyl alcohol (m.p. 72°-73° C.) and then oxidized with activated manganese dioxide to give 4-(2-acetamidoethyl)-benzaldehyde (m.p. 81°-83° C.). Subsequent reaction with malonic acid gives 4-(2-acetamidoethyl)-cinnamic acid (m.p. 206°-208° C.), which is hydrogenated to give β-[4-(2-acetamidoethyl)-phenyl]-propionic acid (m.p. 132°-133° C.). This is then subjected to acidic saponification and reacted directly with ethanol to give ethyl β-[4-(2-aminoethyl)-phenyl]-propionate hydrochloride (m.p. 165°-167° C.).

reactant | 4-(2-Acetamidoethyl)-benzoic acid | C(C)(=O)NCCC1=CC=C(C(=O)O)C=C1 | C11H13NO3
reactant | sodium borohydride | [BH4-].[Na+]
product | 4-(2-acetamidoethyl)-benzyl alcohol | C(C)(=O)NCCC1=CC=C(CO)C=C1 | C11H15NO2
